US06545117B1
1,4-cyclohexanedimethanol (1.37 moles)
3,5,5 trimethylhexanoic acid i.e. iso-nonanoic acid (5.87 moles).

reactant | 3,5,5 trimethylhexanoic acid | CC(CC(=O)O)CC(C)(C)C | C9H18O2
reactant | iso-nonanoic acid | 5.87 moles | C(CCCCCC(C)C)(=O)O | C9H18O2
product | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
